### PR TITLE
[Merged by Bors] - feat: prove Dini's theorem for uniform convergence

### PR DESCRIPTION
**Pull request by j-loreaux**
---

- [x] depends on: #19098 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/UniformSpace/Dini.lean [hunk 1]
```diff
@@ -0,0 +1,97 @@
...
+We generalize the codomain from `ℝ` to a linearly ordered commutative group `G` with the order
+topology which is also order closed. Therefore it applies also when the codomain is `ℤ`, `ℚ`, or
+`ℝ≥0ˣ`.
+-/
+
+open Filter Topology
+
+variable {ι α G : Type*} [SemilatticeSup ι]
+    [Nonempty ι] [TopologicalSpace α] [LinearOrderedCommGroup G] [UniformSpace G]
+    [UniformGroup G] [OrderTopology G] [OrderClosedTopology G] [Nontrivial G]
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/Dini.lean:26]: Since `G` is linearly ordered, `OrderClosedTopology G` comes for free.

I have thought about removing the linearity assumption, but my mind is not clear yet about it, I'll add more once it is the case.

File: Mathlib/Topology/UniformSpace/Dini.lean [hunk 2]
```diff
@@ -0,0 +1,97 @@
...
+namespace UniformGroup
+
+variable {F : ι → α → G} {f : α → G}
+
+/-- **Dini's theorem** If `F n` is a monotone increasing collection of continuous functions on a
+compact space converging pointwise to a continuous `f`, then `F n` converges uniformly to `f`. -/
+@[to_additive "**Dini's theorem** If `F n` is a monotone increasing collection of continuous
+functions on a compact space converging pointwise to a continuous `f`, then `F n` converges
+uniformly to `f`."]
+lemma tendstoUniformly_of_forall_tendsto [CompactSpace α] (hF_cont : ∀ i, Continuous (F i))
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/Dini.lean:37]: I have a bunch of variants of the statement to suggest, not all of which are necessarily interesting right now.
- I think it would be nice to first state the [TendstoLocallyUniformly](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UniformSpace/UniformConvergence.html#TendstoLocallyUniformly) (or maybe even [TendstoUniformlyOnFilter](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UniformSpace/UniformConvergence.html#TendstoUniformlyOnFilter)) statement, which completely gets rid of the compactness assumption. Then this result comes for free thanks to [tendstoLocallyUniformly_iff_tendstoUniformly_of_compactSpace](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UniformSpace/UniformConvergence.html#tendstoLocallyUniformly_iff_tendstoUniformly_of_compactSpace)
- I think you can just immediately replace `SemilatticeSup G` by [IsDirected](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Directed.html#IsDirected)
- In the same vein, one could add a version of the statement about infimas of directed families, instead of limits. I'm not sure this one should be added right now, but I mention it in case you think it should.

File: Mathlib/Topology/UniformSpace/Dini.lean [hunk 3]
```diff
@@ -0,0 +1,97 @@
...
+compact-open topology.
+
+This version requires the codomain to be an `AddGroup` instead of a `Group`.
+-/
+@[to_additive tendsto_of_pointwise "**Dini's theorem** If `F n` is a monotone increasing collection
+of continuous functions on converging pointwise to a continuous `f`, then `F n` converges to `f` in
+the compact-open topology."]
+lemma tendsto_of_pointwise' (hF_mono : Monotone F)
+    (h_tendsto : ∀ x, Tendsto (F · x) atTop (𝓝 (f x))) :
+    Tendsto F atTop (𝓝 f) :=
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/Dini.lean:91]: This gets nitpicky, but here I would state this assuming only `TopologicalGroup G`, since the statement makes sense in that setting (of course in the proof you go back to the uniform case)

**Review by ADedecker — COMMENTED** [review]
Thanks a lot!

File: Mathlib/Topology/UniformSpace/Dini.lean (hunk 2 above)
Comment (j-loreaux) [reply Mathlib/Topology/UniformSpace/Dini.lean:37]: + I don't think we can get rid of compactness, but maybe I'm wrong.
+ I switched to `IsDirected`
+ I'll probably add this when I have time.

File: Mathlib/Topology/UniformSpace/Dini.lean [hunk 4]
```diff
@@ -0,0 +1,141 @@
...
+  refine ⟨_, (hF_cont n).sub hf |>.continuousAt.preimage_mem_nhds <| isOpen_ball.mem_nhds hn, ?_⟩
+  have mono_preimage_Ioo : Monotone (fun i => (F i - f) ⁻¹' Metric.ball 0 ε) := by
+    intro n m hnm x hx
+    simp only [Set.mem_preimage, Pi.sub_apply, mem_ball, dist_zero_right] at hx ⊢
+    refine norm_le_norm_of_abs_le_abs ?_ |>.trans_lt hx
+    simp only [abs_of_nonpos (sub_nonpos.mpr (F_le_f _ _)), neg_sub]
+    gcongr
+    exact hF_mono hnm x
+  filter_upwards [Ici_mem_atTop n] with m (hnm : n ≤ m) z hz
+  exact hε <| mono_preimage_Ioo hnm hz
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/Dini.lean:68]: I played a bit with this (feel free to not fully adopt my suggestion if there's some bits you don't like).
```suggestion
  simp_rw [Metric.tendstoLocallyUniformly_iff, dist_eq_norm']
  intro ε ε_pos x
  simp_rw +singlePass [tendsto_iff_norm_sub_tendsto_zero] at h_tendsto
  obtain ⟨n, hn⟩ := (h_tendsto x).eventually (eventually_lt_nhds ε_pos) |>.exists
  refine ⟨{y | ‖F n y - f y‖ < ε}, ⟨isOpen_lt (by fun_prop) continuous_const |>.mem_nhds hn, ?_⟩⟩
  have mono : Monotone (fun i => {y | ‖F i y - f y‖ < ε}) := by
    intro n m hnm x hx
    refine norm_le_norm_of_abs_le_abs ?_ |>.trans_lt hx
    simp only [abs_of_nonpos (sub_nonpos_of_le (F_le_f _ _)), neg_sub, sub_le_sub_iff_left]
    exact hF_mono hnm x
  filter_upwards [eventually_ge_atTop n] with m hnm z hz
  exact mono hnm hz
```
The key change is to use more API from normed/metric spaces (in particular, no more `TopologicalAddGroup.tendstoLocallyUniformly_iff`). This allows you to get rid of the case disjunction on `G`. 

Then I also replaced some "continuity of `F n - f`" arguments by continuity of `fun y ↦ ‖F n y - f y‖` to turn balls into inequalities, but this is mostly a matter of taste/golfing.

File: Mathlib/Topology/UniformSpace/Dini.lean [hunk 5]
```diff
@@ -0,0 +1,141 @@
...
+exchange for strengthening to a linear order. This separate generality is not included in this file,
+but that generality was included in initial drafts of the original
+[PR #19068](https://github.com/leanprover-community/mathlib4/pull/19068) and can be recovered if
+necessary.
+
+-/
+
+open Filter Topology
+
+variable {ι α G : Type*} [Preorder ι] [IsDirected ι (· ≤ ·)] [Nonempty ι]
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/Dini.lean:28]: Turns out you can remove *both* directedness and nonemptyness by casing on triviality of `atTop` like this:
```
rcases (atTop : Filter ι).eq_or_neBot with h | _
  · simp only [h, tendstoLocallyUniformly_iff_forall_tendsto, bot_prod, tendsto_bot, implies_true]
```
(This would be even shorter if we had `tendstoLocallyUniformly_bot`)

File: Mathlib/Topology/UniformSpace/Dini.lean [hunk 6]
```diff
@@ -0,0 +1,141 @@
...
+    (hF_cont : ∀ i, Continuous (F i)) (hF_mono : Monotone F) (hf : Continuous f)
+    (h_tendsto : ∀ x, Tendsto (F · x) atTop (𝓝 (f x))) :
+    TendstoLocallyUniformly F f atTop := by
+  refine subsingleton_or_nontrivial G |>.elim (fun _ ↦ ?subsingleton) (fun _ ↦ ?_)
+  case subsingleton =>
+    rw [funext fun x => Subsingleton.elim (F x) f, TendstoLocallyUniformly]
+    -- missing `tendstoLocallyUniformly_const`
+    exact fun _ h x ↦ ⟨Set.univ, univ_mem, .of_forall fun _ _ _ ↦ mem_uniformity_of_eq h rfl⟩
+  have F_le_f (x : α) (n : ι) : F n x ≤ f x := by
+    refine _root_.ge_of_tendsto (h_tendsto x) ?_
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/Dini.lean:51]:
```suggestion
    refine ge_of_tendsto (h_tendsto x) ?_
```

File: Mathlib/Topology/UniformSpace/Dini.lean (hunk 4 above)
Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/Dini.lean:68]: In fact maybe the lat `have` can just be inlined

File: Mathlib/Topology/UniformSpace/Dini.lean [hunk 7]
```diff
@@ -0,0 +1,141 @@
...
+/-- **Dini's theorem** If `F n` is a monotone increasing collection of continuous functions on a
+compact set `s` converging pointwise to a continuous `f`, then `F n` converges uniformly to `f`. -/
+lemma tendstoUniformlyOn_of_forall_tendsto {s : Set α} (hs : IsCompact s)
+    (hF_cont : ∀ i, ContinuousOn (F i) s) (hF_mono : ∀ x ∈ s, Monotone (F · x))
+    (hf : ContinuousOn f s) (h_tendsto : ∀ x ∈ s, Tendsto (F · x) atTop (𝓝 (f x))) :
+    TendstoUniformlyOn F f atTop s := by
+  rw [tendstoUniformlyOn_iff_tendstoUniformly_comp_coe]
+  have := isCompact_iff_compactSpace.mp hs
+  exact tendstoUniformly_of_forall_tendsto (hF_cont · |>.restrict) (fun _ _ h x ↦ hF_mono _ x.2 h)
+    hf.restrict (fun x ↦ h_tendsto x x.2)
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/Dini.lean:87]: Could you add
```lean
lemma tendstoLocallyUniformlyOn_of_forall_tendsto {s : Set α}
    (hF_cont : ∀ i, ContinuousOn (F i) s) (hF_mono : ∀ x ∈ s, Monotone (F · x))
    (hf : ContinuousOn f s) (h_tendsto : ∀ x ∈ s, Tendsto (F · x) atTop (𝓝 (f x))) :
    TendstoLocallyUniformlyOn F f atTop s := by
  rw [tendstoLocallyUniformlyOn_iff_tendstoLocallyUniformly_comp_coe]
  exact tendstoLocallyUniformly_of_forall_tendsto (hF_cont · |>.restrict) 
    (fun _ _ h x ↦ hF_mono _ x.2 h) hf.restrict (fun x ↦ h_tendsto x x.2)
```
and then do
```suggestion
    TendstoUniformlyOn F f atTop s := 
  tendstoLocallyUniformlyOn_iff_tendstoUniformlyOn_of_compact hs |>.mp <|
    tendstoLocallyUniformlyOn_of_forall_tendsto hF_cont hF_mono hf h_tendsto
```
?

File: Mathlib/Topology/UniformSpace/Dini.lean (hunk 6 above)
Comment (j-loreaux) [reply Mathlib/Topology/UniformSpace/Dini.lean:51]: Can't do this because of `Monotone.ge_of_tendsto`, which should be protected.

File: Mathlib/Topology/UniformSpace/Dini.lean [hunk 8]
```diff
@@ -0,0 +1,157 @@
...
+import Mathlib.Topology.ContinuousMap.Ordered
+import Mathlib.Topology.UniformSpace.CompactConvergence
+
+/-! # Dini's Theorem
+
+This file proves Dini's theorem, which states that if `F n` is a monotone increasing sequence of
+continuous real-valued functions on a compact set `s` converging pointwise to a continuous function
+`f`, then `F n` converges uniformly to `f`.
+
+We generalize the codomain from `ℝ` to a normed latttice additive commutative group `G`.
```
Comment (urkud) [inline Mathlib/Topology/UniformSpace/Dini.lean:16]:
```suggestion
We generalize the codomain from `ℝ` to a normed lattice additive commutative group `G`.
```

File: Mathlib/Topology/UniformSpace/Dini.lean (hunk 6 above)
Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/Dini.lean:52]: Well actually with the current imports there seems to be no issue!

File: Mathlib/Topology/UniformSpace/Dini.lean [hunk 9]
```diff
@@ -0,0 +1,157 @@
...
+    (hF_cont : ∀ i, Continuous (F i)) (hF_mono : Monotone F) (hf : Continuous f)
+    (h_tendsto : ∀ x, Tendsto (F · x) atTop (𝓝 (f x))) :
+    TendstoLocallyUniformly F f atTop := by
+  refine (atTop : Filter ι).eq_or_neBot.elim (fun h ↦ ?eq_bot) (fun _ ↦ ?_)
+  case eq_bot => simp [h, tendstoLocallyUniformly_iff_forall_tendsto]
+  refine subsingleton_or_nontrivial G |>.elim (fun _ ↦ ?subsingleton) (fun _ ↦ ?_)
+  case subsingleton =>
+    rw [funext fun x => Subsingleton.elim (F x) f, TendstoLocallyUniformly]
+    -- missing `tendstoLocallyUniformly_const`
+    exact fun _ h x ↦ ⟨Set.univ, univ_mem, .of_forall fun _ _ _ ↦ mem_uniformity_of_eq h rfl⟩
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/Dini.lean:50]: This part is no longer needed.

File: Mathlib/Topology/UniformSpace/Dini.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/Dini.lean:79]: (I forgot to answer the last point : indeed this is what I had in mind you need some hypothesis like that)

File: Mathlib/Topology/UniformSpace/Dini.lean [hunk 10]
```diff
@@ -0,0 +1,152 @@
...
+continuous real-valued functions on a compact set `s` converging pointwise to a continuous function
+`f`, then `F n` converges uniformly to `f`.
+
+We generalize the codomain from `ℝ` to a normed lattice additive commutative group `G`.
+This theorem is true in a different generality as well: when `G` is a linearly ordered topological
+group with the order topology. This weakens the norm assumption, in exchange for strengthening to
+a linear order. This separate generality is not included in this file, but that generality was
+included in initial drafts of the original
+[PR #19068](https://github.com/leanprover-community/mathlib4/pull/19068) and can be recovered if
+necessary.
```
[the remark this answers is not in the document]
Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/Dini.lean:22]: I'm completely ready to believe there is a good generalization, but it's not obvious to me, probably because I don't really know what are the right analogues of [OrderTopology](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Order/Basic.html#OrderTopology) in the non-linearly-ordered setting (I know for sure that working with open intervals is bad, and I think the version with closed intervals still behaves badly sometimes, e.g it's still not stable under products unless there are top and bottom elements).

What we really need in our proof is a basis of neighborhoods of zero which is stable under having smaller absolute value. We achieve this in our setting thanks to [norm_le_norm_of_abs_le_abs](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Order/Lattice.html#norm_le_norm_of_abs_le_abs), and in the order topology case it's obvious. What is the precise generality you have in mind ?

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Topology/UniformSpace/Dini.lean:22]: I see. Can you turn a combination of both your answers into an extra comment in the module doc?

File: Mathlib/Topology/UniformSpace/Dini.lean [hunk 11]
```diff
@@ -21,6 +21,13 @@ included in initial drafts of the original
 [PR #19068](https://github.com/leanprover-community/mathlib4/pull/19068) and can be recovered if
 necessary.
 
+The key idea of the proof is to use a particular basis of `𝓝 0` which consists of open sets that
+are somehow monotone in the sense that if `s` is in the basis, and `0 ≤ f ≤ g`, then
+`g ⁻¹' s ⊆ f ⁻¹' s`, and so the proof would work on any topological ordered group possessing
+such a basis. In the case of a linearly ordered topological group with the order topology, this
+basis is `nhds_basis_Ioo`. In the case of a normed lattice additive commutative group, this basis
+is `nhds_basis_ball`, and the fact that this basis satisfies the monotonicity criterion
+corrresponds to `HasSolidNorm`.
```
Comment (YaelDillies) [inline Mathlib/Topology/UniformSpace/Dini.lean:30]:
```suggestion
corresponds to `HasSolidNorm`.
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Topology/UniformSpace/Dini.lean [hunk 12]
```diff
@@ -0,0 +1,159 @@
...
+This theorem is true in a different generality as well: when `G` is a linearly ordered topological
+group with the order topology. This weakens the norm assumption, in exchange for strengthening to
+a linear order. This separate generality is not included in this file, but that generality was
+included in initial drafts of the original
+[PR #19068](https://github.com/leanprover-community/mathlib4/pull/19068) and can be recovered if
+necessary.
+
+The key idea of the proof is to use a particular basis of `𝓝 0` which consists of open sets that
+are somehow monotone in the sense that if `s` is in the basis, and `0 ≤ f ≤ g`, then
+`g ⁻¹' s ⊆ f ⁻¹' s`, and so the proof would work on any topological ordered group possessing
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/Dini.lean:26]:
```suggestion
are somehow monotone in the sense that if `s` is in the basis, and `0 ≤ x ≤ y`, then
`y ∈ s → x ∈ s`, and so the proof would work on any topological ordered group possessing
```
(This is the same thing, but I think mentioning functions makes things less clear)

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
